US07514437B2
To a solution of (D)-leucine methyl ester hydrochloride (300 mg) in methanol (4 ml) was added triethylamine (230 μl) and 4-fluorobenzaldehyde (177 μl). The mixture was stirred for 2.5 hours before (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid (481 mg) and isopropylisocyanide (225 μl) were sequentially added. After stirring for 16 hr, the solvent was removed in vacuo and the residue was dissolved in chloroform. This solution was washed with a saturated aqueous sodium carbonate solution (x2), aqueous citric acid (0.5M, x2) and brine (x1l), dried over magnesium sulphate and evaporated in vacuo. The residue was dissolved in dichloromethane (2 ml) and trifluoroacetic acid (5 ml) and stirred for 3 hours at ambient temperature. After this time, the solvent was removed in vacuo and the residue co-evaporation with toluene (x3) and cyclohexane/ether (1:1, x2). The residue was treated with a solution of triethylamine in dioxane (2% solution, 10 ml) and was left to stir overnight. After this time, the dioxane was removed in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with citric acid solution (0.5M, x2), saturated aqueous sodium bicarbonate solution (x1) and brine (x1). The liquors were then dried over magnesium sulphate and in vacuo and were then co-evaporated with cyclohexane: ether (1: 1, x2). This crude material was purified by Biotage™ (90 g, silica) eluting with toluene:ethyl acetate:cyclohexane (5:3:2) with 5% triethylamine to give (2R)-2-(4-fluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-isopropylethanamide (149 mg)

reactant | (D)-leucine methyl ester hydrochloride | 300 mg | Cl.COC([C@H](N)CC(C)C)=O
reactant | 4-fluorobenzaldehyde | 177 μl | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid | 481 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1CC2=CC=CC=C2C1 | C16H21NO4
reactant | isopropylisocyanide | 225 μl | C(C)(C)[N+]#[C-] | C4H7N
reactant | methanol | 4 ml | CO | CH4O
solvent | triethylamine | 230 μl | C(C)N(CC)CC | C6H15N
product | (2R)-2-(4-fluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-isopropylethanamide | 149 mg | FC1=CC=C(C=C1)[C@H](C(=O)NC(C)C)N1C([C@H](NC([C@H]1CC(C)C)=O)C1CC2=CC=CC=C2C1)=O | C28H34FN3O3
